US08003800B2
4-Benzyloxy-3,5-dimethyl-benzoic acid (5.37 g, 20.9 mmol) is dissolved in CHCl3 (75 mL) and thionylchloride (10 mL) is added at rt. The mixture is stirred at reflux for 2 h. The mixture is evaporated to provide the crude acid chloride (5.62 g). A part of this material (2.75 g, 10 mmol) is dissolved in THF (10 mL) and cooled to −78° C. before it is treated with hydrazine (25 mL, 1 M solution in THF). The mixture is warmed to rt over a period of 15 h. The mixture is diluted with ether (150 mL) and washed with 1M aq. HCl (75 mL, then 5×50 mL). The combined aq. extracts are washed with ether (50 mL), basified with 33% aq. KOH and extracted with DCM (5×50 mL). The DCM extracts are dried over Na2SO4, filtered and evaporated to give 4-benzyloxy-3,5-dimethyl-benzoic acid hydrazide (1.29 g) as a white solid, LC-MS: tR=0.78 min, [M+1]+=271.19; 1H NMR (CDCl3): δ 2.30 (s, 6 H), 3.86 (s br, 2H), 4.82 (s, 2 H), 7.33-7.49 (m, 7 H), 7.56 (s br, 1 H).

reactant | 4-Benzyloxy-3,5-dimethyl-benzoic acid | 20.9 mmol, 5.37 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1C)C | C16H16O3
reactant | thionylchloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | hydrazine | 1 M, 25 mL | NN | H4N2
solvent | CHCl3 | 75 mL | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 150 mL | CCOCC | C4H10O
product | 4-benzyloxy-3,5-dimethyl-benzoic acid hydrazide | 1.29 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NN)C=C1C)C | C16H18N2O2
